US07807676B2
To a stainless steel pressure vessel containing 1-(7-chloro-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione (0.16 g, 0.343 mmol) in Dioxane (10 mL) was added triethylamine (0.7 mL, 5.02 mmol), water (0.05 mL), ethanolamine (0.021 mL, 0.343 mmol), and tetrakis (0.079 g, 0.069 mmol). The mixture was flushed with N2. The stainless steel pressure vessel was purged of air, and refilled with N2 three times. After the final fill with N2, the N2 was removed by vacuum. The vessel was filled and purged with 50 psi carbon monoxide three times, then filled the vessel to an initial reaction pressure of 90 psi of carbon monoxide. The vessel was heated in an oil bath at 100° C. After 16 h, the mixture was cooled to 0° C. The excess CO was removed by vacuum, and the mixture was diluted with MeOH and was transferred to a flask. The mixture was concentrated under reduced pressure. The residue was taken up in DMF, and was filtered through a pad of celite to remove any solids. The DMF solution was purified by prep HPLC. After the first purification, the product was purified a second time using a biotage 25+M cartridge and a 0-5% MeOH in dichloromethane as the gradient. The product, N-(2-hydroxyethyl)-4-methoxy-3-(2-oxo-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridine-7-carboxamide (0.074 g, 0.142 mmol, 41.6% yield), was isolated as a white solid. 1H NMR (500 MHz, DMSO-D6) δ ppm 12.53 (s, 1H) 8.66 (s, 1H) 8.12 (s, 1H) 8.07 (s, 1H) 7.56-7.72 (m, 5H) 4.83 (t, J=5.49 Hz, 1H) 4.02 (s, 3H) 3.66-3.70 (m, 2H) 3.57 (q, J=5.90 Hz, 2H) 3.39-3.46 (m, 4H) 3.28-3.32 (m, 2H) 3.17 (d, J=3.36 Hz, 2H). LCMS: m/e 520.32 (M+H)+, ret time 2.165 min (method 4).

reactant | 1-(7-chloro-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione | 0.343 mmol, 0.16 g | ClC=1N=CC(=C2C1NC=C2C(C(=O)N2CCN(CC2)C2=NN=NN2C2=CC=CC=C2)=O)OC | C21H19ClN8O3
reactant | triethylamine | 5.02 mmol, 0.7 mL | C(C)N(CC)CC | C6H15N
reactant | water | 0.05 mL | O | H2O
reactant | ethanolamine | 0.343 mmol, 0.021 mL | C(O)CN | C2H7NO
solvent | Dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis | 0.069 mmol, 0.079 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(2-hydroxyethyl)-4-methoxy-3-(2-oxo-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridine-7-carboxamide | 0.142 mmol, 0.074 g, 41.6% yield | OCCNC(=O)C=1N=CC(=C2C1NC=C2C(C(N2CCN(CC2)C2=NN=NN2C2=CC=CC=C2)=O)=O)OC | C24H25N9O5
